US07915267B2
3-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}benzonitrile
A solution of 3-[(2-chloroethyl)oxy]benzonitrile obtained in Reference Example 1 (11.3 g, 62.3 mmol), 1H-1,2,4-triazole-3-thiol (6.00 g, 59.3 mmol) and triethylamine (8.40 mL, 62.3 mmol) in ethanol (50 mL) was stirred at 80° C. for 15 hr. The reaction mixture was concentrated under reduced pressure, and ethyl acetate and water were added to the residue. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated to give the title compound as a white powder (14.4 g, 98%).

reactant | 3-[(2-chloroethyl)oxy]benzonitrile | ClCCOC=1C=C(C#N)C=CC1 | C9H8ClNO
reactant | 1H-1,2,4-triazole-3-thiol | 59.3 mmol, 6.00 g | N1N=C(N=C1)S | C2H3N3S
reactant | triethylamine | 62.3 mmol, 8.40 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}benzonitrile | 14.4 g, 98% | N1N=C(N=C1)SCCOC=1C=C(C#N)C=CC1 | C11H10N4OS
